US07723332B2
According to general procedure B, 4-bromo-N-ethyl-N-methylbenzenesulfonamide (111 mg, 0.40 mmol), 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid (72 mg, 0.48 mmol), potassium fluoride (76 mg, 1.3 mmol), and tris(dibenzylideneacetone)dipalladium(0) (10 mg, 0.01 mmol) were placed in an oven dried flask under nitrogen and dry THF (1.0 mL) was added. Tri-t-butylphosphine (60 μL, 0.02 mmol, 10 wt % in hexane) was added and the reaction was stirred for 16 hours. 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-ethyl-N-methylbenzenesulfonamide (17 mg, 14%) was provided after purification. MS (ESI) m/z 303. HPLC purity 99.5% at 210-370 nm, 10.3 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-bromo-N-ethyl-N-methylbenzenesulfonamide | 0.40 mmol, 111 mg | BrC1=CC=C(C=C1)S(=O)(=O)N(C)CC | C9H12BrNO2S
reactant | 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid | 0.48 mmol, 72 mg | C(#N)C1=CC=C(N1C)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 1.3 mmol, 76 mg | [F-].[K+]
reactant | Tri-t-butylphosphine | 0.02 mmol, 60 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-ethyl-N-methylbenzenesulfonamide | 17 mg, 14% | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)S(=O)(=O)N(C)CC | C15H17N3O2S
